US07399759B2
(6-Cyano-2-pyridyl)thioacetamide
A mixture of (6-cyano-2-pyridyl)thioacetic acid (0.95 g, 4.89 mmol), isobutyl chloroformate (1.05 ml, 7.33 mmol), triethylamine (1.03 ml, 7.33 mmol) and THF (150 ml) was stirred under ice cooling condition for 2 hrs. 28% ammonium solution (100 ml) was added to the mixture, and the mixture was stirred under ice cooling condition for 2 hrs. The reaction mixture was combined with ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated to give the titled compound (0.49 g, 52%) as pale yellow crystals

reactant | (6-cyano-2-pyridyl)thioacetic acid | 4.89 mmol, 0.95 g | C(#N)C1=CC=CC(=N1)CC(=S)O | C8H6N2OS
reactant | isobutyl chloroformate | 7.33 mmol, 1.05 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | triethylamine | 7.33 mmol, 1.03 ml | C(C)N(CC)CC | C6H15N
reactant | ammonium | 100 ml | [NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | (6-Cyano-2-pyridyl)thioacetamide | 0.49 g, 52% | C(#N)C1=CC=CC(=N1)CC(=S)N | C8H7N3S
